US04636506
4-(3-Acetylamino-2,6-difluorophenyl)-pyridine
A mixture of 4-(3-amino-2,6-difluorophenyl)-pyridine (6.5 g), acetic anhydride (4.9 g) and ethanol (200 ml) was heated at reflux. After 1 hour, a further 3.3 ml acetic anhydride was added and a third portion (1.5 ml) after another 3.5 hours. Reflux was continued for a total of 6 hours after which time the solution was cooled and evaporated and the residue was partitioned between aqueous sodium bicarbonate and chloroform. The organic layer was washed with water, dried and evaporated to give the solid product of m.p. 148°-150° C. (6.8 g, 86% yield). NMR (CDCl3, 60 MHz): 8.8 (m, 2H), 8.05 (m, 2H), 7.4 (m, 2H), 6.9 (m, 1H), 2.2 (s, 3H).

reactant | 4-(3-amino-2,6-difluorophenyl)-pyridine | 6.5 g | NC=1C(=C(C(=CC1)F)C1=CC=NC=C1)F | C11H8F2N2
reactant | acetic anhydride | 4.9 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 3.3 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-(3-Acetylamino-2,6-difluorophenyl)-pyridine | 86% yield | C(C)(=O)NC=1C(=C(C(=CC1)F)C1=CC=NC=C1)F | C13H10F2N2O
